US05641778
In a manner analogous to that described in Example 21), reaction of (2S,4S,5S,7S)-N-[4-(tert-butoxycarbonyl)amino-7-butylcarbamoyl-5-hydroxy-2-isopropyl-8-methyl-nonyl]-4-butylcarbamoylmethoxy-2-(4-methoxybutoxy)-benzamide (80 mg) in 4N hydrochloric acid solution in dioxane at 0° C. for one hour, rapid concentration of the solvent under a high vacuum and lyophilisation yield (2S,4S,5S,7S)-N-(4-amino-7-butylcarbamoyl-5-hydroxy-2-isopropyl-8-methyl-nonyl)-4-butylcarbamoylmethoxy-2-(4-methoxybutoxy)-benzamide hydrochloride: Rf (W)=0.23. HPLC Rt =13.8 min. MS(FAB) m/e 665 (M+ +1).

reactant | (2S,4S,5S,7S)-N-[4-(tert-butoxycarbonyl)amino-7-butylcarbamoyl-5-hydroxy-2-isopropyl-8-methyl-nonyl]-4-butylcarbamoylmethoxy-2-(4-methoxybutoxy)-benzamide | 80 mg | C(C)(C)(C)OC(=O)N[C@@H](C[C@H](CNC(C1=C(C=C(C=C1)OCC(NCCCC)=O)OCCCCOC)=O)C(C)C)[C@H](C[C@@H](C(C)C)C(NCCCC)=O)O | C41H72N4O9
reactant | hydrochloric acid | 4N | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
product | (2S,4S,5S,7S)-N-(4-amino-7-butylcarbamoyl-5-hydroxy-2-isopropyl-8-methyl-nonyl)-4-butylcarbamoylmethoxy-2-(4-methoxybutoxy)-benzamide hydrochloride | Cl.N[C@@H](C[C@H](CNC(C1=C(C=C(C=C1)OCC(NCCCC)=O)OCCCCOC)=O)C(C)C)[C@H](C[C@@H](C(C)C)C(NCCCC)=O)O | InChI=1S/C36H64N4O7.ClH/c1-8-10-16-38-34(42)24-47-28-14-15-29(33(21-28)46-19-13-12-18-45-7)35(43)40-23-27(25(3)4)20-31(37)32(41)22-30(26(5)6)36(44)39-17-11-9-2;/h14-15,21,25-27,30-32,41H,8-13,16-20,22-24,37H2,1-7H3,(H,38,42)(H,39,44)(H,40,43);1H/t27-,30+,31+,32+;/m1./s1
